US07906546B2
To 5 g (0.016 mol) of benzenesulfonyl-(3-oxo-cyclohexyl)-acetic acid methyl ester in glacial acetic acid (30 mL), 3.17 g (0.018 mol, 1.1 eq) of 4-chlorophenylhydrazine hydrochloride were added and the reaction mixture was stirred at 40° C. for 2 hours. An aqueous solution of NaHCO3 was added until pH=7 was reached, and the mixture was extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. A column chromatography on silica gel followed by a trituration from Et2O yielded 4.3 g (64%) of benzenesulfonyl-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-acetic acid methyl ester as a racemic mixture of diastereomers, light brown crystals, MS: 418 (MH+).

reactant | benzenesulfonyl-(3-oxo-cyclohexyl)-acetic acid methyl ester | 0.016 mol, 5 g | COC(C(C1CC(CCC1)=O)S(=O)(=O)C1=CC=CC=C1)=O | C15H18O5S
reactant | 4-chlorophenylhydrazine hydrochloride | 0.018 mol, 3.17 g, 1.1 eq | Cl.ClC1=CC=C(C=C1)NN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | benzenesulfonyl-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-acetic acid methyl ester | 4.3 g, 64% | COC(C(C1CC=2NC3=CC=C(C=C3C2CC1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C21H20ClNO4S
